US07432288B2
3-Chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione
A solution of 3-chloro-4-phenylfuran-2,5-dione (1.00 mmol, 209 mg) and 3-(aminomethyl)-pyridine (1.00 mmol, 26 mg) in glacial acetic acid (4 mL) was heated in a microwave reactor at 120° C. for two min. After cooling, the solvent was evaporated at reduced pressure. The crude product was used without purification.

reactant | 3-chloro-4-phenylfuran-2,5-dione | 1.00 mmol, 209 mg | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | 3-(aminomethyl)-pyridine | 1.00 mmol, 26 mg | NCC=1C=NC=CC1 | C6H8N2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-Chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C16H11ClN2O2
